US06335408B1
Preparation of the 4-chloro-5-trifluoromethyl-2,2,4-trifluoro-1,3-dioxolane
In a 200 ml 5 necked reactor, equipped with a mechanical stirrer, thermocouple, bubbling inlet for introducing the reacting gaseous mixture and an inert gas, 51.3 g (0.346 moles) of CF3—CH═CFCl are introduced. The reactor is then brought, by a cryostat, to the temperature of −70° C. At this point, under strong stirring, a mixture of CF2(OF)2 (BDM) (1 nl/h) and He (3 nl/h) for 3h 52′ (equivalent to 0.173 moles of BDM) is added in a continuous way.

reactant | CF3—CH═CFCl | 0.346 moles, 51.3 g | C(F)(F)(F)C=C(F)Cl | C3HClF4
reactant | CF2(OF)2 | C(F)(F)(OF)OF | CF4O2
product | 4-chloro-5-trifluoromethyl-2,2,4-trifluoro-1,3-dioxolane | ClC1(OC(OC1C(F)(F)F)(F)F)F | C4HClF6O2
